US09168248B2
8-Chloro-3,4-dihydrospiro[chromene-2,4′-piperidinium]chloride
tert-Butyl 8-chloro-4-oxo-3,4-dihydro-1′H-spiro[chromene-2,4′-piperidine]-1′-carboxylate A mixture of 1-(3-chloro-2-hydroxyphenyl)ethanone (500 mg, 2.93 mmol), 1-boc-4-piperidone (584 mg, 2.93 mmol) and pyrrolidine (61 pt, 0.738 mmol) in Xylene (4 mL) was heated to 100° C. for 20 h. The reaction mixture was purified by column chromatography on SiO2 (40 g, gradient from 0 to 40% EtOAc/hexanes) to afford the title compound as a white solid. LC-MS: m/z=376.1, 374.1 (M+Na).

reactant | 1-(3-chloro-2-hydroxyphenyl)ethanone | 2.93 mmol, 500 mg | ClC=1C(=C(C=CC1)C(C)=O)O | C8H7ClO2
reactant | 1-boc-4-piperidone | 2.93 mmol, 584 mg | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | pyrrolidine | 0.738 mmol | N1CCCC1 | C4H9N
solvent | Xylene | 4 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 8-Chloro-3,4-dihydrospiro[chromene-2,4′-piperidinium]chloride | [Cl-].ClC=1C=CC=C2CCC3(CC[NH2+]CC3)OC12 | InChI=1S/C13H16ClNO.ClH/c14-11-3-1-2-10-4-5-13(16-12(10)11)6-8-15-9-7-13;/h1-3,15H,4-9H2;1H
